US08314100B2
1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine (Compound 23)
Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 22 to obtain the titled compound (yield, 77%). 1H NMR (300 MHz, CDCl3): δ 3.10-3.17 (m, 4H), 3.80-3.89 (m, 6H), 4.08-4.15 (m, 4H), 6.88-7.07 (m, 4H), 7.20-7.32 (m, 1H), 7.41-7.44 (m, 1H), 7.50-7.68 (m, 1H), 7.82 (s, 1H).

reactant | Ethyl N-(6-chloro-2-methoxyquinoxalin-3-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12ClN3O3
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[(6-Chloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | 77% | ClC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C21H22ClN5O3
